US07319109B2
a) 1-(4-{[3-(2,6-Dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}-2-methylphenyl)ethanone
A mixture of 4-(chloromethyl)-3-(2,6-dichlorophenyl)-5-isopropylisoxazole (104 mg, 340 μmol), 2-methyl-4hydroxyacetophenone (50 mg, 330 μmol), potassium carbonate (45 mg, 320 μmol), sodium iodide (9.9 mg, 66 μmol) in acetone (2.2 mL) was refluxed for 5 h. The reaction was filtered over a plug of silica gel, rinsed with ethyl acetate and condensed to a residue. Yield=138 mg (100%) of 1-(4-{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}-2-methylphenyl)ethanone.

reactant | 4-(chloromethyl)-3-(2,6-dichlorophenyl)-5-isopropylisoxazole | 340 μmol, 104 mg | ClCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl | C13H12Cl3NO
reactant | 2-methyl-4hydroxyacetophenone | 330 μmol, 50 mg | CC1=C(C=CC(=C1)O)C(=O)C | C9H10O2
reactant | potassium carbonate | 320 μmol, 45 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 66 μmol, 9.9 mg | [I-].[Na+]
solvent | acetone | 2.2 mL | CC(=O)C | C3H6O
product | 1-(4-{[3-(2,6-Dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}-2-methylphenyl)ethanone | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC(=C(C=C1)C(C)=O)C)C(C)C | C22H21Cl2NO3
